US20010027202A1
To a vigorously stirred mixture of 4-(3-ethoxycarbonylphenoxy)-1-nitrobenzene (5.14 g, 17.9 mmol) in a 3:1 THF/water solution (75 mL) was added a solution LiOH.H2O (1.50 g, 35.8 mmol) in water (36 mL). The resulting mixture was heated at 50° C. overnight, then cooled to room temp., concentrated under reduced pressure, and adjusted to pH 2 with a 1M HCl solution. The resulting bright yellow solids were removed by filtration and washed with hexane to give 4-(3-carboxyphenoxy)-1-nitrobenzene (4.40 g, 95%).

reactant | 4-(3-ethoxycarbonylphenoxy)-1-nitrobenzene | 17.9 mmol, 5.14 g | C(C)OC(=O)C=1C=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C15H13NO5
reactant | THF water | 75 mL | C1CCOC1.O
reactant | LiOH.H2O | 35.8 mmol, 1.50 g | O[Li].O
solvent | water | 36 mL | O | H2O
product | 4-(3-carboxyphenoxy)-1-nitrobenzene | 4.40 g, 95% | C(=O)(O)C=1C=C(OC2=CC=C(C=C2)[N+](=O)[O-])C=CC1 | C13H9NO5
